US07449475B2
N-(5-Chloro-2-hydroxyphenyl)acetamide
To a suspension of 2-amino-4-chlorophenol (1.43 g, 10.0 mmol) in methanol was added acetic anhydride (0.945 mL, 10.0 mmol) and the reaction mixture was stirred at room temperature for 2 h. The volatiles were removed in vacuo to give the subtitled compound (1.5 g).

reactant | 2-amino-4-chlorophenol | 10.0 mmol, 1.43 g | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | acetic anhydride | 10.0 mmol, 0.945 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | CO | CH4O
product | N-(5-Chloro-2-hydroxyphenyl)acetamide | 1.5 g | ClC=1C=CC(=C(C1)NC(C)=O)O | C8H8ClNO2
